US05834454
A mixture of ethyl 5,6,7,8-tetrahydro-11-bromomethyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate (2.92 g, 8.02 mmol), potassium acetate (1.18 g, 12.0 mmol) and N,N-dimethylformamide (30 ml) was stirred at room temperature for 2.5 hours. The reaction mixture was poured into 10% aqueous sodium chloride solution and extracted with ethyl acetate. The extract was washed with 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off and the obtained residue was purified with silica gel column chromatography (eluated with ethyl acetate/n-hexane= 1/5) to give 2.33 g of ethyl 5,6,7,8-tetrahydro-11-acetoxymethyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate.

reactant | ethyl 5,6,7,8-tetrahydro-11-bromomethyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate | 8.02 mmol, 2.92 g | BrCC1=C2C=C(N3C2=C(C=C1)C(CCCC3)=O)C(=O)OCC | C17H18BrNO3
reactant | potassium acetate | 12.0 mmol, 1.18 g | C(C)(=O)[O-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 5,6,7,8-tetrahydro-11-acetoxymethyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate | 2.33 g | C(C)(=O)OCC1=C2C=C(N3C2=C(C=C1)C(CCCC3)=O)C(=O)OCC | C19H21NO5
